US04284634
A mixture of a solution of dimethyl 2-methyl-4-(2-nitrophenyl)-6-dimethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (10.68 g) in acetone (110 ml) and 6 N hydrochloric acid (10 ml) was stirred at 25° C. for 3 hours, which was neutralized with an aqueous sodium bicarbonate solution and acetone was distilled off under reduced pressure. The resultant reddish yellow oily precipitates were solidified, which were cracked finely, collected by filtration, washed with water and air dried over-night to give crude crystals of dimethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (9.33 g).

reactant | dimethyl 2-methyl-4-(2-nitrophenyl)-6-dimethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 10.68 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C(OC)OC | C19H22N2O8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 110 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 6 N, 10 ml | Cl | ClH
product | dimethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 9.33 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C=O | C17H16N2O7
